US08222416B2
To a suspension of 1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridine (10 g, 36.2 mmol) in dry tetrahydrofuran (400 mL) at −78° C. was added a n-butyllithium solution in n-hexane (2.5 M, 21.7 mL, 54.3 mmol) dropwise. The mixture was stirred at −78° C. for 30 min and then treated with 3-methyl-butyraldehyde (7 mL, 65.2 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1 h and quenched with brine. The mixture was extracted with ethyl acetate (2×200 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 20% ethyl acetate/hexanes) afforded 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-ol as a colorless oil (9.4 g, 71%): LC/MS m/e calcd for C20H22N2O4S [M+H]+ 363.43, observed 362.8.

reactant | 1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 36.2 mmol, 10 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)F | C13H9FN2O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 54.3 mmol, 2.5 M, 21.7 mL | CCCCCC | C6H14
reactant | 3-methyl-butyraldehyde | 65.2 mmol, 7 mL | CC(CC=O)C | C5H10O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-ol | 9.4 g, 71% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(CC(C)C)O | C18H19FN2O3S
